Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[O:7][H:8]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],1.12958772992
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])=[C:7][H:8])\[C:9]([H:10])([H:11])[H:12].[O:1],6.20746665582
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],1.75668644157
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9][H:10].[H:5],1.95553548315
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7][H:8]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],-2.38732049188
[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],0.628012467931
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],3.0830405797000004
[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-8.05717052466
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],2.46067105403
[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13].[H:4],2.650370337
[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([O:6][H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][H:4],-1.58424346653
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.57735989375
[C:4][O:5][H:6].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4][O:5][H:6],-5.496765333169999
[C:2](#[C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.64391825032
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],1.20908333771
[O:1][C:2]([C:3]#[C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[H:9],0.48143605175
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.62944477215
[O:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.429898655879
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-5.520156087409999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:5],4.19432989487
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8].[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],-3.79417368379
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]1([C:7]([H:8])([H:9])[H:10])[C:11][C:12]1([H:13])[H:14],2.9351059797600003
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.29618739689
[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.09189378908
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11](=[O:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-4.04061638197
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])=[C:16]([H:17])[H:18]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.34169468536
[C:1]#[C:2][C:3](=[O:4])[C:7]([H:8])([H:9])[H:10].[O:5][H:6]>>[C:1]#[C:2][C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.24099169668
[H:15].[H:1][O:2][C@@:3]([H:4])(/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.549847550319999
